US07468443B2
In 8 mL of N,N-dimethylformamide was dissolved 1.00 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone, and 1.90 g of silver(I) oxide and 0.97 mL of benzyl bromide were added to the solution, after which the resulting mixture was stirred at room temperature for 31 hours. The insoluble materials were filtered off and water and ethyl acetate were added to the residue, after which the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; toluene:ethyl acetate=3:1 to 1:4) to obtain 1.00 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(benzyloxy)-1-azetidinyl]-1-propanone as an oil.

reactant | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone | 1.00 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)O | C16H19NO3S
reactant | benzyl bromide | 0.97 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
catalyst | silver(I) oxide | 1.90 g | [Ag-]=O
product | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(benzyloxy)-1-azetidinyl]-1-propanone | 1.00 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)OCC2=CC=CC=C2 | C23H25NO3S
